US07323460B2
Step 4: 8-Hydroxy-5-[methyl(ethylsulfonyl)amino]-1,6-naphthyridine-7-carboxylic acid
Sodium hydroxide (6.73 mL, 6.73 mmol, 1N solution) was added to a suspension of methyl 8-hydroxy-5-[methyl(ethylsulfonyl)amino]-1,6-naphthyridine-7-carboxylate (730 mg, 2.24 mmol) in a 2:1 solution of dioxane/water (20 mL) and the resulting mixture was heated overnight at 55° C. overnight. The opaque solution was acidified to a pH=7 using 1N HCl solution. The reaction was cooled and the solids that had precipitated out of solution were collected by vacuum filtration to give the desired product as an off-white solid.

reactant | Sodium hydroxide | 6.73 mmol, 1N, 6.73 mL | [OH-].[Na+]
reactant | methyl 8-hydroxy-5-[methyl(ethylsulfonyl)amino]-1,6-naphthyridine-7-carboxylate | 2.24 mmol, 730 mg | OC=1C(=NC(=C2C=CC=NC12)N(S(=O)(=O)CC)C)C(=O)OC | C13H15N3O5S
reactant | HCl | 1N | Cl | ClH
solvent | dioxane water | 20 mL | O1CCOCC1.O
product | 8-Hydroxy-5-[methyl(ethylsulfonyl)amino]-1,6-naphthyridine-7-carboxylic acid | OC=1C(=NC(=C2C=CC=NC12)N(S(=O)(=O)CC)C)C(=O)O | C12H13N3O5S
